US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzdiazepin-2-on-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine
The title compound is prepared from N-[3-(2-(2-amino-4,5-dimethoxyphenyl)-ethylamino)-propyl]-N-[3-(phenylthio)-propyl]-methylamine and carbonyldiimidazole in acetonitrile analogously to Example 56.

reactant | N-[3-(2-(2-amino-4,5-dimethoxyphenyl)-ethylamino)-propyl]-N-[3-(phenylthio)-propyl]-methylamine | NC1=C(C=C(C(=C1)OC)OC)CCNCCCN(CCCSC1=CC=CC=C1)C | C23H35N3O2S
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzdiazepin-2-on-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine | COC=1C(=CC2=C(CCN(C(N2)=O)CCCN(CCCSC2=CC=CC=C2)C)C1)OC | C24H33N3O3S
